US07105544B2
N-[3-(1-{3-[(2,2-DIPHENYLACETYL)AMINO]PROPYL}-4-PIPERIDINYL)PHENYL]CYCLOPROPANECARBOXAMIDE
Example 17 was prepared from diphenylacetyl chloride and N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}cyclopropanecarboxamide according to the procedures described in Scheme 8: 1H NMR (400 MHz, CDCl3) δ 9.26–9.09 (br, 1H), 8.12–7.91 (br, 1H), 7.69 (d, 1H, J=7.2 Hz), 7.63–7.42 (br, 1H), 7.43–7.12 (m, 11H), 6.88 (d, 1H, J=7.2 Hz), 5.03 (s, 1H), 3.53–3.27 (m, 4H), 2.99–2.84 (m, 2H), 2.84–2.58 (m, 3H), 2.40–2.16 (m, 2H), 2.16–1.98 (m, 2H), 1.98–1.83 (m, 2H), 1.78–1.64 (m, 1H), 1.10–0.97 (m, 2H), 0.90–0.76 (m, 2H); ESMS m/e: 496.3 (M+H)+.

reactant | diphenylacetyl chloride | C1(=CC=CC=C1)C(C(=O)Cl)C1=CC=CC=C1 | C14H11ClO
reactant | N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}cyclopropanecarboxamide | NCCCN1CCC(CC1)C=1C=C(C=CC1)NC(=O)C1CC1 | C18H27N3O
product | N-[3-(1-{3-[(2,2-DIPHENYLACETYL)AMINO]PROPYL}-4-PIPERIDINYL)PHENYL]CYCLOPROPANECARBOXAMIDE | C1(=CC=CC=C1)C(C(=O)NCCCN1CCC(CC1)C=1C=C(C=CC1)NC(=O)C1CC1)C1=CC=CC=C1 | C32H37N3O2
